### PR TITLE
Make proofs easier for multiple Z3 versions

### PR DESCRIPTION
**Pull request by atomb**
Tested with these versions:

- 4.8.5
- 4.8.7
- 4.8.8
- 4.8.17
- 4.9.1
- 4.11.0
- 4.11.2

Two proofs fail with 4.8.7, and the whole process takes about twice as long with 4.11.0, but all other versions take around the same amount of time.

By submitting this pull request, I confirm that my contribution is made under the terms of the MIT license.

### CODE REVIEW

**Review by MikaelMayer — APPROVED** [review]
It's great that you can make the library work on more versions of Z3.
The code looks reasonable to me, even if I'm not a fan of putting `{:vcs_split_on_every_assert}` in a library, I think it might be the best decision for now.

**Comment by atomb** [comment]
> It's great that you can make the library work on more versions of Z3. The code looks reasonable to me, even if I'm not a fan of putting `{:vcs_split_on_every_assert}` in a library, I think it might be the best decision for now.

Yeah, I wasn't thrilled by doing that, either. I hope that, at some point, we can work out a way to structure the proofs so that it's not necessary.

**Review by alex-chew — DISMISSED** [review]
LGTM

File: src/Collections/Sequences/LittleEndianNat.dfy [hunk 1]
```diff
@@ -181,7 +181,7 @@ abstract module LittleEndianNat {
 
   /* The nat representation of a sequence can be calculated using the nat
   representation of its prefix. */
-  lemma LemmaSeqPrefix(xs: seq<uint>, i: nat)
+  lemma {:vcs_split_on_every_assert} LemmaSeqPrefix(xs: seq<uint>, i: nat)
```
Comment (cpitclaudel) [inline src/Collections/Sequences/LittleEndianNat.dfy:184]: Is it OK to add `:vcs_split_on_every_assert` in the library?

File: src/Collections/Sequences/LittleEndianNatConversions.dfy [hunk 2]
```diff
@@ -58,8 +58,11 @@ abstract module LittleEndianNatConversions {
     ensures E > 0
   {
     LemmaDivBasicsAuto();
+    assert forall x :: x != 0 ==> 0 / x == 0;
     LemmaPowMultipliesAuto();
     LemmaFundamentalDivMod(Large.BITS(), Small.BITS());
+    assert Large.BITS() == Small.BITS() * (Large.BITS() / Small.BITS()) + (Large.BITS() % Small.BITS());
+    assert (Large.BITS() / Small.BITS()) > 0;
```
Comment (cpitclaudel) [inline src/Collections/Sequences/LittleEndianNatConversions.dfy:65]: Should these be lemma calls?

File: src/Collections/Sequences/Seq.dfy [hunk 3]
```diff
@@ -559,6 +559,7 @@ module Seq {
     if |s| == 0 {
     } else {
       LemmaFlattenLengthLeMul(s[..|s|-1], j);
+      assert |FlattenReverse(s[..|s|-1])| <= (|s|-1) * j;
```
Comment (cpitclaudel) [inline src/Collections/Sequences/Seq.dfy:562]: This assert just repeats the ensure, why is it needed?

File: src/NonlinearArithmetic/Power.dfy [hunk 4]
```diff
@@ -199,6 +199,26 @@ module Power {
     }
   }
 
+  lemma LemmaPowSubs(b: int, e1: nat, e2: nat)
```
Comment (cpitclaudel) [inline src/NonlinearArithmetic/Power.dfy:202]: LemmaPowSubAddCancel maybe?

File: src/NonlinearArithmetic/Power.dfy [hunk 5]
```diff
@@ -199,6 +199,26 @@ module Power {
...
+    LemmaPowAdds(b, e1 - e2, e2);
+  }
+
+  lemma LemmaPowSubsAuto()
+    ensures forall b: int, e1: nat, e2: nat {:trigger Pow(b, e1 - e2)} | e1 >= e2
+      :: Pow(b, e1 - e2) * Pow(b, e2) == Pow(b, e1)
+  {
+    reveal Pow();
+    forall b: int, e1: nat, e2: nat {:trigger Pow(b, e1 - e2)} | e1 >= e2
+      ensures Pow(b, e1 - e2) * Pow(b, e2) == Pow(b, e1)
```
Comment (cpitclaudel) [inline src/NonlinearArithmetic/Power.dfy:216]: You can remove this `ensures`

File: src/NonlinearArithmetic/Power.dfy [hunk 6]
```diff
@@ -199,6 +199,26 @@ module Power {
...
+  {
+    LemmaPowAdds(b, e1 - e2, e2);
+  }
+
+  lemma LemmaPowSubsAuto()
+    ensures forall b: int, e1: nat, e2: nat {:trigger Pow(b, e1 - e2)} | e1 >= e2
+      :: Pow(b, e1 - e2) * Pow(b, e2) == Pow(b, e1)
+  {
+    reveal Pow();
+    forall b: int, e1: nat, e2: nat {:trigger Pow(b, e1 - e2)} | e1 >= e2
```
Comment (cpitclaudel) [inline src/NonlinearArithmetic/Power.dfy:215]: I think you can remove the trigger

File: src/Unicode/Utf8EncodingForm.dfy [hunk 7]
```diff
@@ -249,9 +250,7 @@ module Utf8EncodingForm refines UnicodeEncodingForm {
     var z := (secondByte & 0xF) as bv24;
     var y := (thirdByte & 0x3F) as bv24;
     var x := (fourthByte & 0x3F) as bv24;
-    var v := (u1 << 18) | (u2 << 16) | (z << 12) | (y << 6) | x as Unicode.ScalarValue;
     assert {:split_here} true;
-    assert EncodeScalarValueQuadrupleByte(v) == m;
-    v
+    (u1 << 18) | (u2 << 16) | (z << 12) | (y << 6) | x as Unicode.ScalarValue
```
Comment (cpitclaudel) [inline src/Unicode/Utf8EncodingForm.dfy:254]: This change is a bit scary too: the performance improve if we remove the assert that restates the postcondition?

**Review by cpitclaudel — COMMENTED** [review]
This is good to go as-is, but I left questions / suggestions

File: src/Collections/Sequences/LittleEndianNatConversions.dfy (hunk 2 above)
Comment (atomb) [reply src/Collections/Sequences/LittleEndianNatConversions.dfy:65]: They're specializations of the more general `ensures` clauses of `LemmaFundamentalDivMod`, so the only way I can think of to do that would be to have another fully-included but less general lemma to call here, which seems unsatisfying.

File: src/Collections/Sequences/LittleEndianNat.dfy (hunk 1 above)
Comment (atomb) [reply src/Collections/Sequences/LittleEndianNat.dfy:184]: It's not ideal, IMO, but it's better than the status quo. I think it'd be better to make this proof easier in some other way, but it's not immediately clear how to do that. Any suggestions would be welcome!

File: src/Collections/Sequences/Seq.dfy (hunk 3 above)
Comment (atomb) [reply src/Collections/Sequences/Seq.dfy:562]: It's not exactly restating the postcondition: it's stating a more specific instance of it that also implies an equality. I think this general pattern, asserting an instantiation of a more general postcondition after a lemma call, is one of the steps we might need to start using more often to get proofs that verify more predictably.

File: src/Unicode/Utf8EncodingForm.dfy [hunk 8]
```diff
@@ -232,6 +232,7 @@ module Utf8EncodingForm refines UnicodeEncodingForm {
     var z := (firstByte & 0xF) as bv24;
     var y := (secondByte & 0x3F) as bv24;
     var x := (thirdByte & 0x3F) as bv24;
+    assert {:split_here} true;
```
[the remark this answers is not in the document]
Comment (atomb) [reply src/Unicode/Utf8EncodingForm.dfy:235]: Can you say more specifically what you're worried about?

File: src/Unicode/Utf8EncodingForm.dfy (hunk 7 above)
Comment (atomb) [reply src/Unicode/Utf8EncodingForm.dfy:254]: Apparently so! I'm not particularly worried that anything unsound is going on, if that's what you're worried about. I think the explanation is that Z3 is instantiating gobs of quantifiers, and in one case it gets lucky and in the other it doesn't.

File: src/NonlinearArithmetic/Power.dfy (hunk 5 above)
Comment (atomb) [reply src/NonlinearArithmetic/Power.dfy:216]: Indeed I can! There are many other instances of this pattern in this file, but perhaps those could be addressed later. I'll simplify this one for now.

File: src/NonlinearArithmetic/Power.dfy (hunk 6 above)
Comment (atomb) [reply src/NonlinearArithmetic/Power.dfy:215]: Yep! Same comment as for the `ensures`.

**Comment by atomb** [comment]
> I would love to see in the CI a test that uses all versions of Z3.

Yeah, I'd like to see that at some point soon, too. The only thing stopping us from verifying the whole library with multiple versions is the compute time, and we could run them in parallel.

**Review by alex-chew — APPROVED** [review]
